### PR TITLE
[Merged by Bors] - feat: Galois groups of finite fields

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/CharP/Lemmas.lean [hunk 1]
```diff
@@ -311,6 +310,9 @@ lemma iterate_frobenius : (frobenius R p)^[n] x = x ^ p ^ n := congr_fun (pow_it
 
 variable (R)
 
+lemma iterateFrobenius_eq_pow : iterateFrobenius R p n = frobenius R p ^ n := by
+  ext; simp only [iterateFrobenius_def, RingHom.coe_pow, iterate_frobenius]
```
Comment (riccardobrasca) [inline Mathlib/Algebra/CharP/Lemmas.lean:314]:
```suggestion
  ext; simp [iterateFrobenius_def, iterate_frobenius]
```
The current convention is to not squeeze terminal `simp`.

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 2]
```diff
@@ -480,6 +480,39 @@ theorem exists_orderOf_eq_prime_pow_iff :
     exact ⟨k, hk⟩⟩
 
 end PPrime
+
+/-- The equivalence between `Fin (orderOf x)` and `Submonoid.powers x`, sending `i` to `x ^ i` -/
+@[to_additive "The equivalence between `Fin (addOrderOf a)` and
+`AddSubmonoid.multiples a`, sending `i` to `i • a`"]
+noncomputable def finEquivPowers (x : G) (hx : IsOfFinOrder x) : Fin (orderOf x) ≃ powers x :=
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/OrderOfElement.lean:487]:
```suggestion
noncomputable def finEquivPowers {x : G} (hx : IsOfFinOrder x) : Fin (orderOf x) ≃ powers x :=
```
Unless you find it inconvenient.

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 3]
```diff
@@ -480,6 +480,39 @@ theorem exists_orderOf_eq_prime_pow_iff :
...
+  Equiv.ofBijective (fun n ↦ ⟨x ^ (n : ℕ), ⟨n, rfl⟩⟩) ⟨fun ⟨_, h₁⟩ ⟨_, h₂⟩ ij ↦
+    Fin.ext (pow_injOn_Iio_orderOf h₁ h₂ (Subtype.mk_eq_mk.1 ij)), fun ⟨_, i, rfl⟩ ↦
+      ⟨⟨i % orderOf x, mod_lt _ hx.orderOf_pos⟩, Subtype.eq <| pow_mod_orderOf _ _⟩⟩
+
+@[to_additive (attr := simp)]
+lemma finEquivPowers_apply (x : G) (hx) {n : Fin (orderOf x)} :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/OrderOfElement.lean:493]:
```suggestion
lemma finEquivPowers_apply {x : G} (hx) {n : Fin (orderOf x)} :
```
Also, for readability, can you write `hx` explicitly?

File: Mathlib/GroupTheory/OrderOfElement.lean [hunk 4]
```diff
@@ -480,6 +480,39 @@ theorem exists_orderOf_eq_prime_pow_iff :
...
+    finEquivPowers x hx n = ⟨x ^ (n : ℕ), n, rfl⟩ := rfl
+
+@[to_additive (attr := simp)]
+lemma finEquivPowers_symm_apply (x : G) (hx) (n : ℕ) {hn : ∃ m : ℕ, x ^ m = x ^ n} :
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/OrderOfElement.lean:497]: Same as above. Why is `hn` implicit?

File: Mathlib/FieldTheory/Finiteness.lean [hunk 5]
```diff
@@ -84,6 +84,14 @@ theorem range_finsetBasis [IsNoetherian K V] :
 
 variable {K V}
 
+-- should this go in a namespace?
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finiteness.lean:87]: Good question... I think `FiniteDimensional` is a good idea even if it doesn't appear in the statement.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 6]
```diff
@@ -309,11 +312,111 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+  let n := indefiniteDescription _ p.2.2
+  have := p.2.1
+  have : ExpChar K p := ExpChar.prime n.2.1
+  have := expChar_of_injective_algebraMap (algebraMap K R).injective p
+  ⟨⟨iterateFrobenius R p n,
+    fun k ↦ (iterateFrobenius_def ..).trans <| by rw [← map_pow, ← n.2.2, pow_card]⟩,
+    fun r ↦ (iterateFrobenius_def ..).trans <| by rw [← n.2.2]⟩
+
+/-- If R is an algebra over a finite field K, the Frobenius K-algebra endomorphism of R is
+  given by raising every element of R to its #K-th power. -/
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:332]:
```suggestion
/-- If `R` is an algebra over a finite field `K`, the Frobenius `K`-algebra endomorphism of `R` is
  given by raising every element of `R` to its `#K`-th power. -/
```

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 7]
```diff
@@ -309,11 +312,111 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+@[simps!] def frobeniusAlgHom : R →ₐ[K] R where
+  __ := powMonoidHom q
+  map_zero' := zero_pow Fintype.card_pos.ne'
+  map_add' _ _ := show _ ^ _ = _ ^ _ + _ ^ _ by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:336]: Can you avoid the `show` here?

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 8]
```diff
@@ -309,11 +312,111 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+    nontriviality R
+    simp_rw [← (frobeniusAlgHomAux K R).2]
+    apply map_add
+  commutes' _ := show _ ^ _ = _ by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:340]: Same.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 9]
```diff
@@ -309,11 +312,111 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+    nontriviality R
+    rw [← (frobeniusAlgHomAux K R).2]
+    apply AlgHom.commutes
+
+theorem coe_frobeniusAlgHom : ⇑(frobeniusAlgHom K R) = (· ^ q) := rfl
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:345]:
```suggestion
theorem coe_frobeniusAlgHom : (frobeniusAlgHom K R) = (· ^ q) := rfl
```
Does this work?

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 10]
```diff
@@ -309,11 +312,111 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+
+/-- If R is a perfect ring and an algebra over a finite field K, the Frobenius K-algebra
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:347]: Same as above.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 11]
```diff
@@ -309,11 +312,111 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+  endomorphism of R is an automorphism. -/
+@[simps!] noncomputable def frobeniusAlgEquiv (p : ℕ) [ExpChar R p] [PerfectRing R p] : R ≃ₐ[K] R :=
+  .ofBijective (frobeniusAlgHom K R) <| show Function.Bijective (· ^ q) by
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:350]: Maybe it is unavoidable, but `show` is a little code smell.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 12]
```diff
@@ -309,11 +312,111 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+
+variable (L : Type*) [Field L] [Algebra K L]
+
+/-- If L/K is an algebraic extension of a finite field, the Frobenius K-algebra endomorphism of
+  L is an automorphism. -/
+@[simps!] noncomputable def frobeniusAlgEquivOfAlgebraic [Algebra.IsAlgebraic K L] : L ≃ₐ[K] L :=
+  .ofBijective (frobeniusAlgHom K L) <| Algebra.IsAlgebraic.algHom_bijective _
+
+theorem coe_frobeniusAlgEquivOfAlgebraic [Algebra.IsAlgebraic K L] :
+    ⇑(frobeniusAlgEquivOfAlgebraic K L) = (· ^ q) := rfl
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:367]:
```suggestion
    (frobeniusAlgEquivOfAlgebraic K L) = (· ^ q) := rfl
```
Untested.

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 13]
```diff
@@ -309,11 +312,111 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+      refine ⟨fun h ↦ ?_, this⟩
+      simpa [if_neg (Nat.one_lt_pow pos.ne' Fintype.one_lt_card).ne] using congr_arg (coeff · 1) h
+    refine this.not_lt (((natDegree_sub_le ..).trans_eq ?_).trans_lt <|
+      (Nat.pow_lt_pow_right Fintype.one_lt_card lt).trans_eq card_eq_pow_finrank.symm)
+    simp [Nat.one_le_pow _ _ Fintype.card_pos]
+
+theorem orderOf_frobeniusAlgEquivOfAlgebraic :
+    orderOf (frobeniusAlgEquivOfAlgebraic K L) = Module.finrank K L := by
+  have := orderOf_frobeniusAlgHom K L
+  simp_rw [orderOf_eq_iff Module.finrank_pos, Ne, DFunLike.ext_iff,
```
Comment (riccardobrasca) [inline Mathlib/FieldTheory/Finite/Basic.lean:391]: Can you use `simpa` here?

**Review by riccardobrasca — APPROVED** [review]
I left a couple of comments to code that you moved, feel free to ignore them if you think they don't fit in this PR.

File: Mathlib/FieldTheory/Finiteness.lean (hunk 5 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Finiteness.lean:87]: I'd vote for `Module.`, `Fintype.` would be the next.

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 9 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Finite/Basic.lean:345]: Unfortunately not ...

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 11 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Finite/Basic.lean:350]: This is easy to eliminate ... my negligence

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 13 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Finite/Basic.lean:391]: Very nice!

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 7 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Finite/Basic.lean:336]: replaced by `simp only [OneHom.toFun_eq_coe, MonoidHom.toOneHom_coe, powMonoidHom_apply]`

File: Mathlib/FieldTheory/Finite/Basic.lean (hunk 8 above)
Comment (alreadydone) [reply Mathlib/FieldTheory/Finite/Basic.lean:340]: replaced by term mode proof

File: Mathlib/FieldTheory/Finiteness.lean (hunk 5 above)
Comment (riccardobrasca) [reply Mathlib/FieldTheory/Finiteness.lean:87]: `Module` looks a good idea. Thanks!

bors d+

File: Mathlib/FieldTheory/Finite/Basic.lean [hunk 14]
```diff
@@ -309,11 +312,109 @@ theorem sum_pow_lt_card_sub_one (i : ℕ) (h : i < q - 1) : ∑ x : K, x ^ i = 0
...
+  __ := powMonoidHom q
+  map_zero' := zero_pow Fintype.card_pos.ne'
+  map_add' _ _ := by
+    simp_rw [OneHom.toFun_eq_coe, MonoidHom.toOneHom_coe, powMonoidHom_apply]
+    nontriviality R
+    simp_rw [← (frobeniusAlgHomAux K R).2]
+    apply map_add
+  commutes' _ := by
+    nontriviality R
+    exact ((frobeniusAlgHomAux K R).2 _).symm.trans (AlgHom.commutes ..)
```
Comment (ScottCarnahan) [inline Mathlib/FieldTheory/Finite/Basic.lean:343]: As far as I can tell, `frobeniusAlgHomAux` seems unnecessary.
The last part of `frobeniusAlgHom` can be written as:
```
  map_add' _ _ := by
    obtain ⟨p, _, _, hp, h⟩ := card' K
    nontriviality R
    have _ : CharP R p := charP_of_injective_algebraMap' K R p
    have _ : ExpChar R p := ExpChar.prime hp
    simp only [OneHom.toFun_eq_coe, MonoidHom.toOneHom_coe, powMonoidHom_apply, h]
    exact add_pow_expChar_pow ..
  commutes' _ := by
    simp only [OneHom.toFun_eq_coe, MonoidHom.toOneHom_coe, powMonoidHom_apply]
    rw [← RingHom.map_pow, pow_card]
```

Comment (ScottCarnahan) [reply Mathlib/FieldTheory/Finite/Basic.lean:343]: That is my only comment. Otherwise, it looks great!
